US06423870B1
Step A: 1,2-Dihydro-1-acenaphthylenone
In a 1 litre three-necked flask, oxalyl chloride (2.87 ml, 3.22.10−2 mol, 1 eq.) is added dropwise, under argon, to a solution of (naphth-1-yl)acetic acid (6 g, 3.22.10−2 mol) in anhydrous dichloromethane (270 ml) at 0° C. A few drops of anhydrous dimethylformamide are then added. After 1 hour at 0° C., slight evolution of gas is still observed and the three-necked flask is left at ambient temperature for 40 minutes. After return to 0° C., aluminium chloride (11.2 g, 8.38.10−2 mol, 2.6 eq.) is added gradually with a spatula. The solution is stirred for twenty minutes and becomes green-black in colour. The mixture is poured into an ice/1N HCl mixture. After separation of the phases and washings of the acidic aqueous phase with dichloromethane, the combined organic phases are washed with water, then treated with a saturated NaHCO3 solution and finally washed with a saturated NaCl solution. After drying over MgSO4 and evaporation under reduced pressure, the title product is obtained in the form of a yellow solid.

reactant | oxalyl chloride | 2.87 ml, 1 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (naphth-1-yl)acetic acid | 6 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | aluminium chloride | 11.2 g, 2.6 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 270 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | A few drops | CN(C=O)C | C3H7NO
product | 1,2-Dihydro-1-acenaphthylenone | C1(CC2=CC=CC3=CC=CC1=C23)=O | C12H8O
